US05843992
Ethyl (2S,3S)-3-[(α-benzylphenethyl)carbamoyl]oxirane-2-carboxylate
The reactions and treatments of Example 1 were repeated using (2S,3S)-3-ethoxycarbonyloxirane-2-carboxylic acid (1.01 g, 6.31 mmol.), N-hydroxysuccimide (726 mg, 6.31 mmol.), N,N'-dicyclohexylcarbodiimide (1.30 g, 6.31 mmol.), and α-benzylphenethylamine (1.43 g, 6.31 mmol.). Thus prepared product was purified by silica gel column chromatography (chloroform/methanol=50/1) to give the desired compound as a pale yellow oil (2.22 g, yield: quantitatively).

reactant | (2S,3S)-3-ethoxycarbonyloxirane-2-carboxylic acid | 6.31 mmol, 1.01 g | C(C)OC(=O)[C@@H]1[C@H](O1)C(=O)O | C6H8O5
reactant | N,N'-dicyclohexylcarbodiimide | 6.31 mmol, 1.30 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | α-benzylphenethylamine | 6.31 mmol, 1.43 g | C(C1=CC=CC=C1)C(CC1=CC=CC=C1)N | C15H17N
product | Ethyl (2S,3S)-3-[(α-benzylphenethyl)carbamoyl]oxirane-2-carboxylate | C(C1=CC=CC=C1)C(CC1=CC=CC=C1)NC(=O)[C@@H]1[C@H](O1)C(=O)OCC | C21H23NO4
